US04529565
In 2500 cc of methanol was dissolved 2000 g of p-t-butylphenol. Separately, 520 g of sodium hydroxide was added to a mixed solvent comprising 2100 cc of methanol and 400 cc of water. Both the liquids were mixed together with stirring in a 10-liter separable flask, and sodium p-t-butylphenolate was formed with generation of heat. Methanol and water were removed by distillation, and the residue was dried in vacuum at 120° C. to isolate sodium p-t-butylphenolate in the form of a yellow powder having a melting point higher than 400° C.

reactant | p-t-butylphenol | 2000 g | C(C)(C)(C)C1=CC=C(C=C1)O | C10H14O
reactant | sodium hydroxide | 520 g | [OH-].[Na+]
reactant | water | 400 cc | O | H2O
solvent | methanol | 2500 cc | CO | CH4O
solvent | methanol | 2100 cc | CO | CH4O
product | sodium p-t-butylphenolate | C(C)(C)(C)C1=CC=C(C=C1)[O-].[Na+] | InChI=1S/C10H14O.Na/c1-10(2,3)8-4-6-9(11)7-5-8;/h4-7,11H,1-3H3;/q;+1/p-1
